US08084448B2
B. 5-[2-Benzyloxy-4-(2-thiazol-5-yl-vinyl)-phenyl]-1,1-dioxo-2-(2-trimethylsilanylethyl)-1,2,5-thiadiazolidin-3-one
A pressure vessel is charged with 5-(2-benzyloxy-4-iodophenyl)-1,1-dioxo-2-(2-trimethylsilanylethyl)-1,2,5-thiadiazolidin-3-one (828 mg, 1.52 mmol), 5-vinyl thiazole (186 mg, 1.68 mmol), triethylamine (0.32 mL, 2.28 mmol) and tri-o-tolylphosphine (37 mg, 0.12 mmol) in CH3CN (1.5 mL). The vessel is degassed and palladium(II) acetate (6.80 mg, 0.03 mmol) is added. The vessel is sealed and heated at 80° C. for 20 h. The reaction mixture is concentrated and dissolved in EtOAc, washed with 1N HCl , dried over MgSO4 and concentrated. The residue is purified by column chromatography to afford the title compound as a yellow solid; (M+H)+=528.

reactant | 5-(2-benzyloxy-4-iodophenyl)-1,1-dioxo-2-(2-trimethylsilanylethyl)-1,2,5-thiadiazolidin-3-one | 1.52 mmol, 828 mg | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)I)N1CC(N(S1(=O)=O)CC[Si](C)(C)C)=O | C20H25IN2O4SSi
reactant | 5-vinyl thiazole | 1.68 mmol, 186 mg | C(=C)C1=CN=CS1 | C5H5NS
reactant | triethylamine | 2.28 mmol, 0.32 mL | C(C)N(CC)CC | C6H15N
reactant | tri-o-tolylphosphine | 0.12 mmol, 37 mg | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
solvent | CH3CN | 1.5 mL | CC#N | C2H3N
catalyst | palladium(II) acetate | 0.03 mmol, 6.80 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 5-[2-Benzyloxy-4-(2-thiazol-5-yl-vinyl)-phenyl]-1,1-dioxo-2-(2-trimethylsilanylethyl)-1,2,5-thiadiazolidin-3-one | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)C=CC1=CN=CS1)N1CC(N(S1(=O)=O)CC[Si](C)(C)C)=O | C25H29N3O4S2Si
